US08357711B2
4-[({[1-(4-Chlorophenyl)cyclopropyl]methyl}amino)carbonyl]-2-fluorobenzenesulfonyl chloride
4-Amino-N-{[1-(4-chlorophenyl)cyclopropyl]methyl}-3-fluorobenzamide (Preparation 92, 338 mg, 1.06 mmol) in 6 M of HCl in water (2 mL) was cooled at −5° C. Sodium nitrite (80.5 mg, 1.17 mmol) in water (0.4 mL, 20 mmol) was added slowly. After 20 minutes, sulfur dioxide in AcOH (8:25, sulfur dioxide:AcOH, 3 mL) and copper(II) chloride dihydrate (0.18 g, 1.1 mmol) were added to the reaction mixture. Vigorous gas evolution occurred. After 2 hours, the reaction was poured onto ice and water. The resulting solid was collected by filtration, washed with water, and dried to afford a tan powder.

reactant | 4-Amino-N-{[1-(4-chlorophenyl)cyclopropyl]methyl}-3-fluorobenzamide | 1.06 mmol, 338 mg | NC1=C(C=C(C(=O)NCC2(CC2)C2=CC=C(C=C2)Cl)C=C1)F | C17H16ClFN2O
reactant | Sodium nitrite | 1.17 mmol, 80.5 mg | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | HCl | 6 M | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | AcOH | 3 mL | CC(=O)O | C2H4O2
catalyst | copper(II) chloride dihydrate | 1.1 mmol, 0.18 g | O.O.[Cu](Cl)Cl
solvent | water | 20 mmol, 0.4 mL | O | H2O
product | 4-[({[1-(4-Chlorophenyl)cyclopropyl]methyl}amino)carbonyl]-2-fluorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)C1(CC1)CNC(=O)C1=CC(=C(C=C1)S(=O)(=O)Cl)F | C17H14Cl2FNO3S
